US06127361
0.593 ml of DMSO (8.36 mmol) in 3 ml of dichloromethane was added to 0.365 ml (4.18 mmol) of oxalyl chloride in dichloromethane (15 ml) and the mixture was stirred at -78° C. for 15 min. 1.2 g (2.79 mmol) of (R)-(-)-5,11-dihydro-5-[1-[4-methoxyphenyl(2-hydroxy)ethyl]pyrrolidin-2-yl]methyl]dibenzo[b,e][1,4]oxazepine in dichloromethane (5 ml) was added at -78° C. and after 2 hours 2.33ml (1.67 mmol) of triethylamine in 5 ml of dichloromethane was added. The mixture was warmed to room temperature and the mixture was poured in to saturated sodium hydrogen carbonate. The products were extracted with dichloromethane and the organic layer as washed with water, saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and concentrated in vacuo. The residue was purified by silicagel column chromatography (n-hexane:ethyl acetate=5:1) to give pale yellow oil. By treating the oil with ether saturated with hydrogen chloride gave 452 mg (35%) of (R)-(-)-5,11-dihydro-5-[1-[4-methoxyphenyl (2-oxo)ethyl]pyrrolidin-2-yl]methyl]dibenzo[b,e][1,4]oxazepine hydrochloride as yellow powder.

reactant | DMSO | 8.36 mmol, 0.593 ml | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 4.18 mmol, 0.365 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dibenzo[b,e][1,4]oxazepine | C1=CC=CC2=NC3=C(OC=C21)C=CC=C3 | C13H9NO
reactant | triethylamine | 1.67 mmol, 2.33ml | C(C)N(CC)CC | C6H15N
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | hydrogen chloride | Cl | ClH
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | dibenzo[b,e][1,4]oxazepine hydrochloride | Cl.C1=CC=CC2=NC3=C(OC=C21)C=CC=C3 | InChI=1S/C13H9NO.ClH/c1-2-6-11-10(5-1)9-15-13-8-4-3-7-12(13)14-11;/h1-9H;1H
